US05189054
Preparation of 3-[(o-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole
Dissolve 3-amino-2-carbethoxy-4,6-dichloroindole (1.09 g, 4 mmol) in methylene chloride (25 mL) and add triethylamine (0.578 mL, 4 mmol) followed by o-fluorobenzoyl chloride (1 g, 4 mmol). Stir the reaction for 1 hour at room temperature. Add an additional amount of methylene chloride (25 mL) and stir overnight. Dilute the reaction with ethyl acetate (100 mL), wash with water (100 mL) and dry the organic phase. Concentrate in vacuo and recrystallize the residue from ethyl acetate/hexane to yield the title compound (1.05 g, 67%); mp >290° C.

reactant | 3-amino-2-carbethoxy-4,6-dichloroindole | 4 mmol, 1.09 g | NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C11H10Cl2N2O2
reactant | triethylamine | 4 mmol, 0.578 mL | C(C)N(CC)CC | C6H15N
reactant | o-fluorobenzoyl chloride | 4 mmol, 1 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-[(o-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 1.05 g, 67% | FC1=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=CC=C1 | C19H15Cl2FN2O3
